US07390904B2
Bis[1-(2,2-diphenylpropyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] sebacate
Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-y) sebacate and 2,2-diphenylpropane are reacted following a procedure similar to that of Example 6.

reactant | Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-y) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
reactant | 2,2-diphenylpropane | C1(=CC=CC=C1)C(C)(C)C1=CC=CC=C1 | C15H16
product | Bis[1-(2,2-diphenylpropyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCC(C)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCC(C)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C58H80N2O6
